US06818767B2
A solution of 1.5 g (4.46 mmol) of 7-benzyloxy-6-fluoro-2-methyl-4-pyrrolidin-1-yl-quinoline, product of example 99, dissolved in 40 ml of MeOH was treated with 0.375 g of palladium on charcoal (10%) and then hydrogenated at RT for 1.5 h until HPLC analysis indicated the completion of the reaction. The catalyst was filtered off, and the solution was concentrated in vacuo. The residue was triturated with AcOEt, collected by filtration and dried in a high vacuum to give 1.02 g (92.8%) 6-fluoro-2-methyl-4-pyrrolidin-1-yl-quinolin-7-ol as an yellow solid. ISP mass spectrum, m/e: 247.3 (M+1 calculated for C14H15FN2O: 247).

reactant | 7-benzyloxy-6-fluoro-2-methyl-4-pyrrolidin-1-yl-quinoline | 4.46 mmol, 1.5 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC(=NC2=C1)C)N1CCCC1)F | C21H21FN2O
solvent | MeOH | 40 ml | CO | CH4O
catalyst | palladium on charcoal | 0.375 g | [Pd] | Pd
product | 6-fluoro-2-methyl-4-pyrrolidin-1-yl-quinolin-7-ol | 1.02 g, 92.8% | FC=1C=C2C(=CC(=NC2=CC1O)C)N1CCCC1 | C14H15FN2O
